US05438052
5-Bromo-4-fluoro-2,2-diphenyl-1,3-benzodioxol (17.3 g) are dissolved in 150 ml of tetrahydrofuran, treated at -78° C. with 29.1 ml of a 0.6M solution of n-butyllithium in n-hexane and stirred at -78° C. for 15 minutes. Thereupon, 10 ml of dimethylformamide are added, after stirring for a further 15 minutes the mixture is treated with semi-saturated, aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phase is dried with magnesium sulphate and evaporated. The residue is crystallized from ethanol. After drying there are obtained 12.7 g of 4-fluoro-2,2-diphenyl-1,3-benzodioxol-5-carboxaldehyde as white crystals of m.p. 92°-94° C.

reactant | 5-Bromo-4-fluoro-2,2-diphenyl-1,3-benzodioxol | 17.3 g | BrC1=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F | C19H12BrFO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 4-fluoro-2,2-diphenyl-1,3-benzodioxol-5-carboxaldehyde | 12.7 g | FC1=C(C=CC=2OC(OC21)(C2=CC=CC=C2)C2=CC=CC=C2)C=O | C20H13FO3
